US08309685B2
(S)-2-(tert-butoxycarbonylamino)-7-methyl-5-oxooct-6-enoic acid:
To a solution of N-Boc-pyroglutamic acid (0.23 g 1.0 mmol) in 10.0 ml of anhydrous THF was added 2-methylprop-1-enyl)magnesium bromide (0.5 M in THF, 5 mL, 2.5 mmol) at −78° C. slowly. The reaction mixture was stirred for 1 h at −78° C. 1 N HCl (2.5 ml) aqueous solution was added and the mixture was slowly warmed up to RT. The pH was adjusted to ˜3 by 1 N HCl. The THF was then removed under vacuum and the remaining aqueous was extracted by DCM (3×20 mL). The organic layer was dried over Na2SO4, filtered and the solvent was removed to provide the crude product.

reactant | N-Boc-pyroglutamic acid | 1.0 mmol, 0.23 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1=O)C(=O)O | C10H15NO5
reactant | magnesium bromide | 2.5 mmol, 0.5 M, 5 mL | [Br-].[Mg+2].[Br-]
reactant | HCl | 1 N, 2.5 ml | Cl | ClH
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
product | (S)-2-(tert-butoxycarbonylamino)-7-methyl-5-oxooct-6-enoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC(C=C(C)C)=O | C14H23NO5
